US07465795B2
4-amino-8-(2,4-difluorophenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (100 mg, 0.33 mmol) and 2,4-difluorophenyl boronic acid (202 mg, 1.28 mmol) were reacted to afford the title compound (101 mg, 92.3% yield) as a pale-yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.55 (br, 1H), 7.92 (dd, J=8.0 Hz, J′=1.7 Hz, 1H), 7.70-7.80 (m, 2H), 7.49 (m, 1H), 6.90-7.05 (m, 2H), 3.46 (q, J=6.7 Hz, 2H), 1.66 (m, J=7.3 Hz, 2H), 1.00 (t, J=7.4 Hz, 3H) MS APCI, m/z=343 (M+H) HPLC 1.84 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.33 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 2,4-difluorophenyl boronic acid | 1.28 mmol, 202 mg | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
product | 4-amino-8-(2,4-difluorophenyl)-N-propyl-cinnoline-3-carboxamide | 101 mg, 92.3% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=C(C=C1)F)F)C(=O)NCCC | C18H16F2N4O
